US07138425B2
c) 2-[2-Methoxy-5-[5-(3,4-methylenedioxyphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 15f), from 2-(3-amino-4-methoxyphenyl-5-[3,4-(methylenedioxy)phenyl]benzoxazole (120 mg, 0.33 mmol) and 1,2,4-benzenetricarboxylic anhydride (70 mg, 0.36 mmol) the title compound was obtained (82 mg, 46%). 1H NMR (DMSO) δ 8.45(dd, 1H), 8.37–8.32(m, 3H), 8.12(d, 1H), 7.96(d, 1H), 7.79(d, 1H), 7.63(dd, 1H), 7.49(d, 1H), 7.33(d, 1H), 7.20(dd, 1H), 7.02(d, 1H), 6.06(2H, s), 3.88(s, 3H). MS m/z 535.0 (M+H)+.

reactant | 3-amino-4-methoxyphenyl-5-[3,4-(methylenedioxy)phenyl]benzoxazole | 0.33 mmol, 120 mg | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC1=C(C=C2)OCO1 | C21H16N2O4
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.36 mmol, 70 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methoxy-5-[5-(3,4-methylenedioxyphenyl)benzoxazol-2-yl]phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | COC1=C(C=C(C=C1)C=1OC2=C(N1)C=C(C=C2)C2=CC1=C(C=C2)OCO1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O | C30H18N2O8
